US06365626B1
To a mixture of 5,7-dihydroxy-4-propyl-coumarin (10 g, 45 mmol) and anhydrous AICI3 (12 g, 90 mmol) was added 1,2-dichloroethane (120 mL). The resulting suspension was heated to 75° C. with vigorous stirring. After 30 minutes of stirring a brown slurry was obtained, then nitrobenzene was introduced into the mixture resulting in an orange colored solution. A solution of anhydrous AICI3 (12g, 90 mmol) and propionic anhydride (6.6 g 45 mmol) in 1,2-dichloroethane (60 mL) was added dropwise over a period of 1-2 hours. After addition, the mixture was allowed to stir at 75° C. for another two hours and subsequently cooled to room temperature. The resulting mixture was poured into ice and 1N HC1. The precipitated product was filtered and then taken into ethyl acetate and the aqueous solution was extracted thoroughly with additional ethyl acetate (3×300 mL). The combined ethyl acetate extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. The resulting solid was purified by column chromatography (1:1 Hexane/ethyl acetate) yielding 5,7-dihydroxy-8-propionyl-4 propyl-coumarin (4.2 g, 24%): 240-245° C.; 1H NMR (DMSO-d6) δ 0.93 (t, 3H), 1.06 (t, 3H), 1.57 (sextet 2H), 2.86 (t, 2H), 2.98 (q, 2H), 5.96 (s, 1H) 6.20 (s, 1H), 11.44 (s, 1H), 12.47 (s, 1H): GC/MS 294, 277, 276, 247; IR (KBr) 3249, 1693, 1625 and 1592 cm−1; UVmax (MeOH) 219, 288, 319 nm.

reactant | 5,7-dihydroxy-4-propyl-coumarin | 45 mmol, 10 g | OC1=C2C(=CC(OC2=CC(=C1)O)=O)CCC | C12H12O4
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | propionic anhydride | 45 mmol, 6.6 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 120 mL | ClCCCl | C2H4Cl2
product | 5,7-dihydroxy-8-propionyl-4 propyl-coumarin | 4.2 g, 24% | OC1=C2C(=CC(OC2=C(C(=C1)O)C(CC)=O)=O)CCC | C15H16O5
